2136-12-11 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**12-10**]
   - HCT falling from 32 to 25.4; informed GI, wants to hold off on EGD,
   rec'd transfusion. Agreed to ppi drip and no to octreotide. Patient
   eventually agreed to transfusion. Giving one unit
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsPenicillins
   Unknown;
   Raloxifene
   Unknown;
   Morphine
   Nausea/Vomiting
   Fosamax (Oral) (Alendronate Sodium)
   Nausea/Vomiting
   Donepezil Hcl
   Unknown;
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-12-11**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Psychiatric / Sleep: Agitated, Delirious
   Flowsheet Data as of  [**2136-12-11**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 58 (53 - 68) bpm
   BP: 121/41(63) {100/36(47) - 124/64(70)} mmHg
   RR: 19 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 58 Inch
           Total In:
                                                                  1,420 mL
                                                                    881 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    300 mL
                                                                    675 mL
   Blood products:
   85 mL
   Total out:
                                                                    330 mL
                                                                    375 mL
   Urine:
                                                                    330 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,090 mL
                                                                    506 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), brady
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): variable; roughly oriented to time, rarely to
   place or purpose, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   215 K/uL
   7.5 g/dL
   81 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.0 mEq/L
   19 mg/dL
   111 mEq/L
   142 mEq/L
   25.4 %
   6.7 K/uL
        [image002.jpg]
                             [**2136-12-10**]  09:02 PM
                             [**2136-12-11**]  02:15 AM
                             [**2136-12-11**]  02:30 AM
   WBC
   6.7
   Hct
   28.1
   25.4
   Plt
   215
   Cr
   0.7
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   79
   81
   Other labs: CK / CKMB / Troponin-T:89//<0.01, Mg++:2.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 10471**] is an 84 year old woman with a hx of TIAs, CAD, HTN,
   iron-deficiency anemia who presents with symptomatic bradycardia.
   .
   1. BRADYCARDIA:
   Pt was found to be in a junctional rhythm on arrival to ED.  Possible
   etiologies include medication effects of both b-blocker and CCB.  She
   has a creatinine of 1.0 which is up from baseline of 0.6 which could be
   contributing to prolonged effect of Atenolol. This Acute renal failure
   is [**Last Name (un) 10476**] pre-renal and related to dehydration and blood loss. Other
   etiologies include sinus node dysfuction/sick sinus syndrome or
   myocardial ischemia.  ECG does not show ST segment changes and cardiac
   enzymes are negative x 2.  She is confused per her son and taking
   medications inappropriately is a possibility.
   - continue supportive care while nodal agents wash out
   - hold atenolol and verapamil
   - if pt continues to have symptomatic bradycardia/hypotension, would
   give atropine 1mg x 1 and start dopamine gtt
   - if continues, will consult EP for ?pacer
   - cycle cardiac enzymes; ECG in AM
   .
   2. HYPOTENSION:
   Likely effect of bradycardia.  Pt is also dry on exam.  Also may be due
   to volume loss from GI bleed.
   -  transfuse for HCT < 24 or active bleed
   - trend HCT overnight
   .
   3. GI BLEED: Her source is likely a slow UGIB given hx of
   gastritis/gastric ulcers and recent prednisone intake. Patient may also
   have a colonic source as she is at risk for diverticulitis, colon ca.
   Guaiac positive on exam.  HCT fell from 32.3 to 25.4 in 15 hours.
   Patient transitioned to PPI drip
   - continue protonix drip. The concern here is the theoretical ppi and
   plavix interaction that, when observed in studies, is least with
   pantoprazole.
   - trend HCT; transfuse for HCT < 24 or acute bleed
   - active T&S
   - NPO for now
   - GI following but defers EGD for now
   .
   4. CORONARY ARTERY DISEASE:
   Unclear history.  Per PCP, [**Name10 (NameIs) **] has q waves on ECG but no prior caths or
   stents.  On Plavix for TIAs.  Not on aspirin.
   - holding B-blocker
   .
   5. HX of TIAs:
   - continue Plavix for now; will consider holding if HCT drops
   .
   6. RASH: patient with long history of pruritic rash, not evident on
   exam
   - unclear indication for prednisone.  will hold in the setting of
   possible GI bleed. Treat hypotension, though unlikely with steroids.
   - hold on cipro and cephalexin
   .
   7. FEN: NPO given possible GI bleed until HCT stable
   .
   8. PPX: Hold SC Heparin given GI bleed; continue IV PPI; hold bowel
   regimen
   .
   9. CODE: DNR/DNI, confirmed on admission
   .
   10. Dispo:  CCU for monitoring overnight
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-12-10**] 06:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   Attending
s Note:09.30hrs
   Reviewed overnight course and examined Pt.
   Agree with Dr.[**Last Name (STitle) **]
s assessment and Rx outline.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 45mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2136-12-11**] 11:23 ------

2136-12-12 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**12-11**]
   - SW consult for complex social situation/inability to care for self
   - beta-blocker or CCB discontinued
   - GI recs: will scope tomorrow
   - called out to medicine floor, [**Doctor Last Name **] aware, but this evening became
   too confused/(likely sundowning) to go to the floor. Will stay in CCU
   overnight for closer 1:1 nursing and GoLytely prep.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsPenicillins
   Unknown;
   Raloxifene
   Unknown;
   Morphine
   Nausea/Vomiting
   Fosamax (Oral) (Alendronate Sodium)
   Nausea/Vomiting
   Donepezil Hcl
   Unknown;
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-12-12**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 78 (61 - 83) bpm
   BP: 163/58(122) {122/41(63) - 183/78(122)} mmHg
   RR: 28 (13 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
                  Total In:
                                                                  3,315 mL
                                                                     40 mL
   PO:
                                                                  1,900 mL
                                                                     40 mL
   TF:
   IVF:
                                                                    859 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                  1,285 mL
                                                                    260 mL
   Urine:
                                                                  1,285 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,030 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   Rrr, no m/r/g
   Ctab with bibasilar crackles
   Abd soft nt nd normal bsounds
   Peripheral Vascular:  Radial and DP pulses are 2+ bilaterally
   Skin:  Not assessed
   Neurologic: alert and oriented to purpose
   Labs / Radiology
   185 K/uL
   10.5 g/dL
   92 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.6 mEq/L
   10 mg/dL
   107 mEq/L
   143 mEq/L
   33.3 %
   5.9 K/uL
        [image002.jpg]
                             [**2136-12-10**]  09:02 PM
                             [**2136-12-11**]  02:15 AM
                             [**2136-12-11**]  02:30 AM
                             [**2136-12-11**]  01:51 PM
                             [**2136-12-11**]  09:07 PM
                             [**2136-12-12**]  04:05 AM
   WBC
   6.7
   5.9
   Hct
   28.1
   25.4
   35.0
   34.1
   33.3
   Plt
   215
   185
   Cr
   0.7
   0.6
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   79
   81
   92
   Other labs: PT / PTT / INR:11.2/24.5/0.9, CK / CKMB /
   Troponin-T:89//<0.01, Lactic Acid:1.1 mmol/L, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 10471**] is an 84 year old woman with a hx of TIAs, CAD, HTN,
   iron-deficiency anemia who presents with symptomatic bradycardia.
   .
   #. GI BLEED: Her source is likely a slow UGIB given hx of
   gastritis/gastric ulcers and recent prednisone intake. Patient may also
   have a colonic source as she is at risk for diverticulitis, colon ca.
   Guaiac positive on exam.  Was transfused with two units as HCT fell
   from 32.3 to 25.4 in 15 hours on the day of admission. Patient briefly
   transitioned to PPI drip and then on IV PPI [**Hospital1 **]
   - continue protonix. The concern here is the theoretical ppi and plavix
   interaction that, when observed in studies, is least with pantoprazole.
   GI plan to scope today but patient did not complete colon prep
   - trend HCT; transfuse for HCT < 24 or acute bleed
   - active T&S
   - NPO for now
   - GI following: will see if still can EGD as that is where there is
   highest likelihood of bleed
   .
   # Altered Mental Status: Delirium with Dementia: Patient came from home
   where she lives independently. However there are questions about how
   well she can care for herself, including severe sundowning and likely
   medication confusion. SW consulted.
   - PT and OT evals to assess ADL
s/ self
   - Pt would benefit from VNA referral, if not rehab or adult day care to
   better support her medical compliance and increase social outlets; pt
   declined.
   - sw following
   .
   #. BRADYCARDIA:
   Pt was found to be in a junctional rhythm on arrival to ED.  Possible
   etiologies include medication effects of both b-blocker and CCB.  She
   has a creatinine of 1.0 which is up from baseline of 0.6 which could be
   contributing to prolonged effect of Atenolol. This Acute renal failure
   is [**Last Name (un) 10476**] pre-renal and related to dehydration and blood loss. Other
   etiologies include sinus node dysfuction/sick sinus syndrome or
   myocardial ischemia.  ECG does not show ST segment changes and cardiac
   enzymes are negative x 2.  She is confused per her son and daughter and
   taking medications inappropriately is a possibility.
   - resolved
   - hold atenolol and verapamil
   - if pt continues to have symptomatic bradycardia/hypotension, would
   give atropine 1mg x 1 and start dopamine gtt
   .
   # Hypertension: Off of atenolol and verapamil, patient has been
   hyperensive between 122-160+ systolic. Likely essential and related to
   held medications.
   - add [**Last Name (un) **], valasartan 80 qd
   .
   #. HYPOTENSION:
   likely effect of bradycardia.  Pt is also dry on exam.  Also may be due
   to volume loss from GI bleed.
   - resolved
   .
   #. CORONARY ARTERY DISEASE:
   Unclear history.  Per PCP, [**Name10 (NameIs) **] has q waves on ECG but no prior caths or
   stents.  On Plavix for TIAs.  Not on aspirin.
   - holding B-blocker
   .
   #. HX of TIAs:
   - continue Plavix for now; GI aware of plan
   .
   #. RASH: patient with long history of pruritic rash, not evident on
   exam
   - unclear indication for prednisone.  will hold in the setting of
   possible GI bleed. If withdrawakm treat hypotension, though unlikely,
   with steroids (in addition to fluids).
   - hold on cipro and cephalexin
   .
   #. FEN: NPO if procedure, clears otherwise
   .
   #. PPX: Hold SC Heparin given GI bleed; continue IV PPI; hold bowel
   regimen
   .
   #. CODE: DNR/DNI, confirmed on admission
   #. Dispo:  floor until scope
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-12-11**] 09:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   Attendings note:09.00hrs
   Reviewed overnight course.
   Examined Pt and agree with Dr.[**Last Name (STitle) **]
s note and plan of Rx.
   Awaiting EDG/colonoscopy.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 45mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2136-12-12**] 10:02 ------

2136-12-13 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - patient called out, but never got bed
   - still has not finished bowel prep, but will go for EGD in the AM
   Allergies:
   Penicillins
   Unknown;
   Raloxifene
   Unknown;
   Morphine
   Nausea/Vomiting
   Fosamax (Oral) (Alendronate Sodium)
   Nausea/Vomiting
   Donepezil Hcl
   Unknown;
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-12-12**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Flowsheet Data as of  [**2136-12-13**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**38**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 72 (72 - 97) bpm
   BP: 171/55(83) {145/55(81) - 176/144(125)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64 kg (admission): 65.3 kg
   Height: 58 Inch
                  Total In:
                                                                  1,080 mL
                  PO:
                                                                  1,060 mL
                  TF:
   IVF:
                                                                     20 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                      0 mL
   Urine:
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    220 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   Rrr, no m/r/g
   Ctab with mild bibasilar crackles
   Abd soft nt nd normal bsounds
   Peripheral Vascular:  Radial and DP pulses are 2+ bilaterally
   Neurologic: alert and oriented x 3
   Labs / Radiology
   214 K/uL
   11.2 g/dL
   83 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.9 mEq/L
   6 mg/dL
   105 mEq/L
   142 mEq/L
   35.2 %
   5.5 K/uL
        [image002.jpg]
                             [**2136-12-10**]  09:02 PM
                             [**2136-12-11**]  02:15 AM
                             [**2136-12-11**]  02:30 AM
                             [**2136-12-11**]  01:51 PM
                             [**2136-12-11**]  09:07 PM
                             [**2136-12-12**]  04:05 AM
                             [**2136-12-12**]  09:55 PM
                             [**2136-12-13**]  03:52 AM
   WBC
   6.7
   5.9
   5.5
   Hct
   28.1
   25.4
   35.0
   34.1
   33.3
   34.3
   35.2
   Plt
   [**Telephone/Fax (3) 10505**]
   Cr
   0.7
   0.6
   0.6
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   79
   81
   92
   83
   No other data.
   Assessment and Plan
   Ms. [**Known lastname 10471**] is an 84 year old woman with a hx of TIAs, CAD, HTN,
   iron-deficiency anemia who presents with symptomatic bradycardia.
   .
   #. GI BLEED: Her source is likely a slow UGIB given hx of
   gastritis/gastric ulcers and recent prednisone intake. Patient may also
   have a colonic source as she is at risk for diverticulitis, colon ca.
   Guaiac positive on exam.  Was transfused with two units as HCT fell
   from 32.3 to 25.4 in 15 hours on the day of admission. Patient briefly
   transitioned to PPI drip and then on IV PPI [**Hospital1 **].  Plan was to scope her
   yesterday but she didn
t finish the bowel prep. Patient was given
   Golytely and then mag citrate yesterday, bowels are starting to get
   clear.  She should be able to get scoped today
   - EGD and colonoscopy today
   - f/u GI recs
   - continue protonix. The concern here is the theoretical ppi and plavix
   interaction that, when observed in studies, is least with pantoprazole.
   - continue clears for now
   - trend HCT; transfuse for HCT < 24 or acute bleed
   - active T&S
   .
   # Altered Mental Status: Delirium with Dementia: Patient came from home
   where she lives independently. However there are questions about how
   well she can care for herself, including severe sundowning and likely
   medication confusion. SW consulted, she refuses rehab or daily care
   center.
   - PT and OT evals to assess ADL
s/ self
   - Pt would benefit from VNA referral, if not rehab or adult day care to
   better support her medical compliance and increase social outlets; pt
   declined.
   - sw following
   .
   #. BRADYCARDIA: Resolved. Pt was found to be in a junctional rhythm on
   arrival to ED.  Possible etiologies include medication effects of both
   b-blocker and CCB.  She has a creatinine of 1.0 which is up from
   baseline of 0.6 which could be contributing to prolonged effect of
   Atenolol. This Acute renal failure is [**Last Name (un) 10476**] pre-renal and related to
   dehydration and blood loss. Other etiologies include sinus node
   dysfuction/sick sinus syndrome or myocardial ischemia.  ECG does not
   show ST segment changes and cardiac enzymes are negative x 2.  She is
   confused per her son and daughter and taking medications
   inappropriately is a possibility.
   - hold atenolol and verapamil
   - if pt continues to have symptomatic bradycardia/hypotension, would
   give atropine 1mg x 1 and start dopamine gtt
   .
   # Hypertension: Patient initially presented with hypotension, in the
   setting of getting both atenolol and verapamil, and volume loss from
   GIB.  Now off of atenolol and verapamil, patient has been hyperensive
   between 122-160+ systolic. Likely essential and related to held
   medications.
   - continue losartan 20 qd
   .
   #. CORONARY ARTERY DISEASE: Unclear history.  Per PCP, [**Name10 (NameIs) **] has q waves
   on ECG but no prior caths or stents.  On Plavix for TIAs.  Not on
   aspirin. holding B-blocker
   - continue plavix, hold off on aspirin
   .
   #. HX of TIAs:
   - continue Plavix for now; GI aware of plan
   .
   #. ANEMIA: Microcytic. Fe studies are consistent with Fe deficiency
   anemia.
   - continue Fe supplementation
   - trend hct TID for now
   - manage GIB as above
   .
   #. RASH: patient with long history of pruritic rash, not evident on
   exam.
   - unclear indication for prednisone.  will hold in the setting of
   possible GI bleed. If withdrawn, treat hypotension, though unlikely,
   with steroids (in addition to fluids).
   - hold on cipro and cephalexin
   ICU Care
   Nutrition: Clear liquids
   Glycemic Control:  not on insulin
   Lines:
   20 Gauge - [**2136-12-11**] 09:15 AM
   Prophylaxis:
   DVT: Hold SC Heparin given GI bleed
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI, confirmed on admission
   Disposition: will transfer to medicine
   ------ Protected Section ------
   Attending
s Note: 09.30hrs
   Reviewed overnight course and examined pt.
   Awaiting EGD/Colonoscopy and transfer to floor.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2136-12-13**] 10:19 ------